* File: inv2.pex.netlist.pex
* Created: Thu Oct  3 18:59:15 2019
* Program "Calibre xRC"
* Version "v2013.4_26.18"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV2_GROUND 1 2 16
c0 22 0 157.14f
c1 19 0 281.799f
c2 13 0 329.739f
c3 10 0 228.983f
r4 17 19 0.327298
r5 14 22 0.026824
r6 14 16 0.100282
r7 13 17 0.0453973
r8 13 16 0.188169
r9 8 22 0.0153724
r10 8 10 0.29363
r11 2 19 15.53
r12 2 10 15.61
r13 1 2 6.27522
.ends

.subckt PM_INV2_VOUT 1 3 8
c0 18 0 537.529f
c1 16 0 102.02f
c2 13 0 99.45f
r3 16 18 0.0577135
r4 11 13 0.03584
r5 8 11 0.0624
r6 5 13 0.0126293
r7 5 18 1.16293
r8 4 16 15.53
r9 4 11 15.61
r10 3 4 3.51923
r11 1 4 6.01622
.ends

.subckt PM_INV2_VDD 1 3 12
c0 21 0 161.46f
c1 15 0 103.081f
c2 9 0 251.373f
c3 8 0 234.68f
c4 7 0 98.5f
r5 13 15 0.0615211
r6 10 21 0.0254635
r7 10 12 0.044
r8 9 13 0.0351279
r9 9 12 0.173333
r10 8 21 0.0168226
r11 7 19 0.0611843
r12 7 8 0.48186
r13 1 3 3.44885
r14 1 19 15.53
r15 1 15 15.61
.ends

.subckt PM_INV2_VIN 4 8 12
c0 12 0 125.6f
c1 10 0 166f
c2 8 0 376.634f
c3 4 0 513.364f
r4 10 20 10.0225
r5 10 18 9.82252
r6 10 12 11.07
r7 8 20 86.1538
r8 4 18 133.077
.ends

